US09315542B2
(4S,7S,10S,13S)-10-Benzyl-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-15-(((prop-2 yn-1-yloxy)carbonyl)oxy)-3,6,9,12-tetraazahexadecan-16-yl methanesulfonate
Prepared according to the procedure for (4S,7S,10S,13S,15S)-10-benzyl-16-iodo-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-15-ylprop-2-yn-1-yl carbonate, except using propargyl alcohol and (4S,7S,10S,13S,15R)-10-benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl methanesulfonate.

reactant | (4S,7S,10S,13S,15S)-10-benzyl-16-iodo-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-15-ylprop-2-yn-1-yl carbonate | C(OC(C#C)[C@@](C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CN1CCOCC1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O)CC1=CC=CC=C1)=O)CC(C)C)=O)(CI)C)([O-])=O
reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | (4S,7S,10S,13S,15R)-10-benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl methanesulfonate | CS(=O)(=O)OC[C@@](C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CN1CCOCC1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O)CC1=CC=CC=C1)=O)CC(C)C)=O)(C)O | C41H61N5O10S
product | (4S,7S,10S,13S)-10-Benzyl-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-15-(((prop-2 yn-1-yloxy)carbonyl)oxy)-3,6,9,12-tetraazahexadecan-16-yl methanesulfonate | CS(=O)(=O)OCC(C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CN1CCOCC1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O)CC1=CC=CC=C1)=O)CC(C)C)=O)(OC(=O)OCC#C)C | C45H63N5O12S
